US04190727
To a sample of 136.8 grams of the product prepared as described in Example 2B, i.e., 3-tert-butyl-4-neopentyl-1,2-dithiolium perchlorate, and 180 grams of methanol was added over a 10 minute period 44 grams of triethylamine. The mixture was stirred for 20 minutes. The solvent was removed under diminished pressure and the residue taken up in ether and water. The etheral solution was washed two times with water, dried over anhydrous magnesium sulfate, filtered and distilled under diminished pressure to remove the ether. The product, 3-methoxy-3-tertiarybutyl-4-neopentyl 1,2-dithiole, was isolated as 96 grams (88.8% of theory) of an oil, n.m.r. (CCl4) τ in ppm, 3.81, 1H singlet (vinyl); 6.81, 3H singlet (methoxy); 7.23, 1H doublet (diastereotopic, J=15 cps, neopentyl proton); 7.82, 1H doublet (diastereotopic, J=15 cps, neopentyl proton); 8.63, 9H singlet (t-butyl) and 8.97, 9H singlet (t-butyl).

reactant | 3-tert-butyl-4-neopentyl-1,2-dithiolium perchlorate | Cl(=O)(=O)(=O)[O-].C(C)(C)(C)C=1S[S+]=CC1CC(C)(C)C
reactant | methanol | 180 grams | CO | CH4O
solvent | triethylamine | 44 grams | C(C)N(CC)CC | C6H15N
product | 3-methoxy-3-tertiarybutyl-4-neopentyl 1,2-dithiole | COC1(SSC=C1CC(C)(C)C)C(C)(C)C | C13H24OS2
